US07531482B2
Preparation of 5-Difluoromethoxy-3-methyl-2-methylsulfanylpyridine
Solid sodium hydroxide (9.3 g, 232 mmol) were added in one portion to a stirred solution of 5-methyl-6-methylsulfanylpyridine-3-ol (7.2 g, 46.4 mmol) in 1,4-dioxane (75 mL) and water (25 mL) causing an exotherm to 50° C. Chlorodifluoromethane (13 g, 150 mmol) was then rapidly bubbled into the reaction over 9 minutes, causing a gradual exotherm to 75° C. After the reaction had cooled to room temperature, it was diluted with ether (100 mL) and water (100 mL) and the layers separated. The organic phase was extracted with water (6×100 mL), brine and dried (Na2SO4). Filtration and removal of solvent left a brown oil, 8.3 g, that was purified by chromatography on silica, eluting with 1:1 methylene chloride/hexanes to give product, as an orange liquid, 5.8 g, 28.3 mmol, 61 percent yield.

reactant | sodium hydroxide | 232 mmol, 9.3 g | [OH-].[Na+]
reactant | 5-methyl-6-methylsulfanylpyridine-3-ol | 46.4 mmol, 7.2 g | CC=1C=C(C=NC1SC)O | C7H9NOS
reactant | Chlorodifluoromethane | 150 mmol, 13 g | ClC(F)F | CHClF2
solvent | 1,4-dioxane | 75 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
solvent | ether | 100 mL | CCOCC | C4H10O
solvent | water | 100 mL | O | H2O
product | 5-Difluoromethoxy-3-methyl-2-methylsulfanylpyridine | 61 percent yield | FC(OC=1C=C(C(=NC1)SC)C)F | C8H9F2NOS
